US07423150B2
The mixture containing N-(4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-yl)-2-(4-ethylpiperazin-1-yl)acetamide in methanol with a catalytic amount of 10% Pd/C poisoned with lead was hydrogenated until the disappearance of the yellow color. The reaction was then filtered to remove the catalyst and concentrated to yield N-(4-(3-amino-4-(methylamino)phenoxy)pyridin-2-yl)-2-(4-ethylpiperazin-1-yl)acetamide as a brown oil. HPLC=2.00 min; MS: MH+=385.

reactant | N-(4-(4-(methylamino)-3-nitrophenoxy)pyridin-2-yl)-2-(4-ethylpiperazin-1-yl)acetamide | CNC1=C(C=C(OC2=CC(=NC=C2)NC(CN2CCN(CC2)CC)=O)C=C1)[N+](=O)[O-] | C20H26N6O4
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-(4-(3-amino-4-(methylamino)phenoxy)pyridin-2-yl)-2-(4-ethylpiperazin-1-yl)acetamide | NC=1C=C(OC2=CC(=NC=C2)NC(CN2CCN(CC2)CC)=O)C=CC1NC | C20H28N6O2
